US07772226B2
0.166 g of potassium carbonate and 0.106 μl of 2-butynyl bromide were added to a 10 ml N,N-dimethylformamide solution of 0.184 g of 2-chloro-5-methyl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one, and the mixture was stirred at room temperature for 18 hours. 50 ml of ethyl acetate was added to the solution, and the mixture was washed three times with 20 ml of water and then with 20 ml of a saturated sodium chloride solution. The organic liquid was dried over magnesium sulfate, and concentrated under reduced pressure. Then, the residue was purified by silica gel column chromatography. Thus, 0.175 g of 3-(2-butynyl)-2-chloro-5-methyl-3,5-dihydroimidazo[4,5-d]pyridazin-4-one was obtained from the fraction eluted with hexane-ethyl acetate (4:1), and 0.033 g of 1-(2-butynyl)-2-chloro-5-methyl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one was obtained from the fraction eluted with hexane-ethyl acetate (2:3).

reactant | potassium carbonate | 0.166 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butynyl bromide | 0.106 μl | C(C#CC)Br | C4H5Br
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 2-chloro-5-methyl-1,5-dihydroimidazo[4,5-d]pyridazin-4-one | 0.184 g | ClC1=NC2=C(C=NN(C2=O)C)N1 | C6H5ClN4O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-butynyl)-2-chloro-5-methyl-3,5-dihydroimidazo[4,5-d]pyridazin-4-one | 0.175 g | C(C#CC)N1C(=NC=2C=NN(C(C21)=O)C)Cl | C10H9ClN4O
